US04778796
A mixture of 11.3 g of 6-methylnicotinic acid, 5.0 g of 4-dimethylaminopyridine, 18.3 g of t-butyl alcohol, 22.4 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, and 280 ml of dichloromethane is stirred at room temperature for 2 days. The reaction mixture is washed with water, dried over magnesium sulfate, and concentrated. The residue is chromatographed on silica gel with chloroform to give 7.1 g of t-butyl 6-methylnicotinate as an oil.

reactant | 6-methylnicotinic acid | 11.3 g | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | t-butyl alcohol | 18.3 g | C(C)(C)(C)O | C4H10O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 22.4 g | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 5.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 280 ml | ClCCl | CH2Cl2
product | t-butyl 6-methylnicotinate | 7.1 g | CC1=NC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
